US07259266B2
Step 3. Preparation of ethyl 8-(2-ethoxy-2-oxoethyl)-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A solution of ethyl 8-(ethoxyethynyl)-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Step 2 (1.73 g, 4.08 mmole) in a mixture of acetone (32 mL) and H2O (8 mL) was treated with H2SO4 (0.800 g, 8.15 mmole) and the resulting mixture was stiffed at room temperature for 2.5 hrs. Saturated NaHCO3 (200 mL) and then solid K2CO3 were then added and the product was extracted with EtOAc (300 mL). The EtOAc solution was washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The crude product was purified by silica chromatography (0%-15% EtOAc-hexanes gradient) to give 1.47 g (82% yield) of the product as a yellow crystalline solid: EIHRMS m/z 442.0880 (M+, C18H16F6O6, Calc'd 442.0851).

reactant | ethyl 8-(ethoxyethynyl)-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | C(C)OC#CC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C18H14F6O5
reactant | H2SO4 | 8.15 mmole, 0.800 g | OS(=O)(=O)O | H2O4S
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 32 mL | CC(=O)C | C3H6O
solvent | H2O | 8 mL | O | H2O
product | ethyl 8-(2-ethoxy-2-oxoethyl)-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 1.47 g, 82% yield | C(C)OC(CC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F)=O | C18H16F6O6
